nmos:VCO

.include {model_path}

.option TEMP=27C

L2 net16 net18 590.00p
L0 0 ouputn 590.00p
L1 0 ouputp 590.00p
mn3 net1 net1 vdd! 0 PMOS w=2u l=1u
C6 net16 net18 400f ic=200.0m
C0 ouputn 0 80f
C1 ouputp 0 80f ic=200.0m
V2 vctrl 0 dc 0
V0 vdd! 0 dc 1.2
mp2 net18 net1 vdd! vdd! PMOS w=100u l=1u
mp1 ouputp ouputn net16 vdd! PMOS w=4u l=65n
mp0 ouputn ouputp net16 vdd! PMOS w=4u l=65n
R0 0 net1 5.0K
mp4 ouputn vctrl ouputn ouputn PMOS w=15u l=65n
mp5 ouputp vctrl ouputp ouputp PMOS w=15u l=65n

.control

let w_start = {w_start}
let w_stop = {w_stop}
let delta_w = {w_change}
let w_test = w_start
let w2_start = {w2_start}
let w2_stop = {w2_stop}
let delta_w2 = {w2_change}
let w2_test = w2_start
let w1_start = {w1_start}
let w1_stop = {w1_stop}
let delta_w1 = {w1_change}
let w1_test = w1_start

while w_test le w_stop
    alter @mp1[w] = w_test
    alter @mp0[w] = w_test
    while w2_test le w2_stop
        alter @mp5[w]= w2_test
        alter @mp4[w]= w2_test
        while w1_test le w1_stop
            alter @mn3[w] = w1_test
		    op
        	let gm = @mp1[gm]
      	  	let rs = (590p*20G)/15
        	let vn = (1.38e-23)*300*gm*15*rs*rs*10k
        	let ib = @mp2[id]
        	let Va =  ib*15*15*rs
        	let Pnoise = (8*vn)/(Va*Va)
        	let dbpn = db(Pnoise)
        	let pw = ib*1.2
        	print pw >> {out}power.csv
        	print dbpn >> {out}pnoise.csv

            tran 1ns 100ns
            meas tran tdiff1 TRIG v(ouputn) VAL=0 RISE=1 TARG v(ouputn) VAL=0 RISE=2
            let f1 = 1/tdiff1
            alter V2 dc = 1
            tran 1ns 100ns
            meas tran tdiff2 TRIG v(ouputn) VAL=0 RISE=1 TARG v(ouputn) VAL=0 RISE=2
            let f2 = 1/tdiff2
            let ft = abs(tran1.f1-f2)
            print ft >> {out}tuningrange.csv

            print w_test >> {out}w.csv
            print w1_test >> {out}w1.csv
            print w2_test >> {out}w2.csv

            let w1_test = w1_test + delta_w1
        end
        let w2_test = w2_test + delta_w2
        let w1_test = w1_start
    end
    let w_test = w_test + delta_w
    let w2_test = w2_start
end
reset
.endc